US06967196B1
4-chloro-N-(2,5-dichlorophenyl)-N-(4-(5-carboxy-3-thiazolidinyl)-1(R)-methylbutyl)benzenesulfonamide was prepared analogous to 4-chloro-N-(2,5-dichlorophenyl)-N-(3-(2-carboxy-3-thiazolidinyl)-1(R)-methylpropyl)benzenesulfonamide by reacting 4-chloro-N-(2,5-dichlorophenyl)-N-(4-(5-carboxymethyl-3-thiazolidinyl)-1(R)-methylbutyl)benzenesulfonamide with 50% aqueous KOH. Yield=45%; White powder: IR (KBr) 1467, 1350, 1167, 1094, 754, 622 cm−1; MS (ESI+), 537 (M+H)+.

reactant | 4-chloro-N-(2,5-dichlorophenyl)-N-(3-(2-carboxy-3-thiazolidinyl)-1(R)-methylpropyl)benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCN1C(SCC1)C(=O)O)C)C1=C(C=CC(=C1)Cl)Cl | C20H21Cl3N2O4S2
reactant | 4-chloro-N-(2,5-dichlorophenyl)-N-(4-(5-carboxymethyl-3-thiazolidinyl)-1(R)-methylbutyl)benzenesulfonamide | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCN1CSC(C1)CC(=O)O)C)C1=C(C=CC(=C1)Cl)Cl | C22H25Cl3N2O4S2
reactant | KOH | [OH-].[K+]
reactant | KBr | [K+].[Br-]
product | 4-chloro-N-(2,5-dichlorophenyl)-N-(4-(5-carboxy-3-thiazolidinyl)-1(R)-methylbutyl)benzenesulfonamide | Yield=45% | ClC1=CC=C(C=C1)S(=O)(=O)N([C@@H](CCCN1CSC(C1)C(=O)O)C)C1=C(C=CC(=C1)Cl)Cl | C21H23Cl3N2O4S2
